US09388195B2
A) Production of 3-(trifluoromethyl)pyrrolidin-3-ol
A mixture of tert-butyl 3-oxopyrrolidine-1-carboxylate (600 mg), trimethyl(trifluoromethyl)silane (0.57 mL), 1M N,N,N-tributylbutane-1-aminium fluoride/tetrahydrofuran solution (0.50 mL) and tetrahydrofuran (6 mL) was stirred at room temperature for 30 min. Saturated aqueous ammonium chloride solution (2 mL) and 1M N,N,N-tributylbutane-1-aminium fluoride/tetrahydrofuran solution (1 mL) were added, and the reaction mixture was stirred at room temperature for 1 hr. The mixture was extracted with ethyl acetate, washed successively with water and brine, and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give a pale-brown solid. The obtained solid was dissolved in methanol (1 mL), and 4M hydrochloric acid/ethyl acetate solution (2 mL) was added at room temperature. The reaction mixture was stirred at room temperature for 4 hr, and the reaction system was concentrated under reduced pressure. Saturated aqueous sodium hydrogen carbonate (1 mL) was added to the residue, and the mixture was extracted with ethyl acetate/tetrahydrofuran and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (260 mg) as a brown solid.

reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 600 mg | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | trimethyl(trifluoromethyl)silane | 0.57 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | N,N,N-tributylbutane-1-aminium fluoride tetrahydrofuran | 1M, 0.50 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
reactant | N,N,N-tributylbutane-1-aminium fluoride tetrahydrofuran | 1M, 1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | hydrochloric acid ethyl acetate | 4M, 2 mL | Cl.C(C)(=O)OCC
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-(trifluoromethyl)pyrrolidin-3-ol | 260 mg | FC(C1(CNCC1)O)(F)F | C5H8F3NO
